US04777178
8.09 g of cysteamine hydrochlorideare dissolved in 450 ml of ethanol, and 2.93 g of sodium hydroxide are added thereto. The mixture is stirred at room temperature for 10 minutes. A solution of 21.05 g of 2-{2-[4-(3-fluorophenyl)-1,2,3,6-tetrahydropyridin-1-yl]ethyloxy}benzaldehyde in 50 ml of ethanol is added to the mixture, and the mixture is further stirred at room temperature for 14 hours. The mixture is concentrated and then extracted with ethyl acetate. The extract is washed with a saturated sodium chloride solution, dried and then evaporated to remove the solvent. The residue is recrystallized from n-hexane. 21.62 g of 2-{2-[2-(4-(3-fluorophenyl)-1,2,3,6-tetrahydropyridin-1-yl)ethyloxy]phenyl}thiazolidine are obtained. Yield: 69%.

reactant | cysteamine | 8.09 g | NCCS | C2H7NS
reactant | sodium hydroxide | 2.93 g | [OH-].[Na+]
reactant | 2-{2-[4-(3-fluorophenyl)-1,2,3,6-tetrahydropyridin-1-yl]ethyloxy}benzaldehyde | 21.05 g | FC=1C=C(C=CC1)C=1CCN(CC1)CCOC1=C(C=O)C=CC=C1 | C20H20FNO2
solvent | ethanol | 450 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-{2-[2-(4-(3-fluorophenyl)-1,2,3,6-tetrahydropyridin-1-yl)ethyloxy]phenyl}thiazolidine | 21.62 g, Yield: 69% | FC=1C=C(C=CC1)C=1CCN(CC1)CCOC1=C(C=CC=C1)C1SCCN1 | C22H25FN2OS
